US09315490B2
(3-(Methylsulfinyl)-1-(5-(pyridin-2-yl)pyrimidin-2-yl)-1H-indol-6-yl)(morpholino)methanone (Compound No. 50)
[1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane complex (0.014 g, 0.016 mmol) was added under an argon atmosphere at room temperature to a solution of [(1-(5-bromopyrimidin-2-yl)-3-(methylsulfinyl)-1H-indol-6-yl)(morpholino)methanone (0.15 g, 0.33 mmol), bis(pinacolato)diboron (0.093 g, 0.37 mmol) and potassium acetate (0.099 g, 0.99 mmol) in dioxane (6 mL). The reaction mixture was heated at 115° C. for 40 min and then cooled to ambient temperature. For the Suzuki coupling, which was also carried out under an inert atmosphere, 2-bromopyridine (0.078 g, 0.49 mmol), tetrakis(triphenylphosphine)palladium(0) (0.019 g, 0.016 mmol) and 2M potassium carbonate solution (0.5 mL) were added. The mixture was stirred at 100° C. for 2.5 h and then filtered through a plug of celite. The filtrate was concentrated and the resulting residue purified by flash column chromatography [methanol/dichloromethane=1:50] and a subsequent trituration with dichloromethane/hexane (1:2). White solid. Yield: 45 mg (30% of theory)

reactant | (1-(5-bromopyrimidin-2-yl)-3-(methylsulfinyl)-1H-indol-6-yl)(morpholino)methanone | 0.33 mmol, 0.15 g | BrC=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)N1CCOCC1)S(=O)C | C18H17BrN4O3S
reactant | bis(pinacolato)diboron | 0.37 mmol, 0.093 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.99 mmol, 0.099 g | C(C)(=O)[O-].[K+]
reactant | 2-bromopyridine | 0.49 mmol, 0.078 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | potassium carbonate | 2M, 0.5 mL | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.016 mmol, 0.019 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (3-(Methylsulfinyl)-1-(5-(pyridin-2-yl)pyrimidin-2-yl)-1H-indol-6-yl)(morpholino)methanone | CS(=O)C1=CN(C2=CC(=CC=C12)C(=O)N1CCOCC1)C1=NC=C(C=N1)C1=NC=CC=C1 | C23H21N5O3S
